US07799334B2
N-(4′-Trifluoromethylbiphenyl-2-yl)-3-difluoromethyl-1-methyl-1H-pyrazole-4-carboxamide (comp. I.1)
At room temperature, 0.29 g of 3-difluoromethyl-1-methyl-1H-pyrazole-4-carbonyl chloride was added dropwise to a solution of 0.36 g of 4′-trifluoromethyl-2-aminobiphenyl and 0.18 g of pyridine in 10 ml of toluene, after which the mixture was stirred at room temperature for 16 hours. 30 ml of methyl tert-butyl ether were added, and the organic phase was washed successively with 2% strength hydrochloric acid, 2% strength aqueous sodium hydroxide solution and then with dilute sodium chloride solution. The organic phase was dried and concentrated under reduced pressure. The crude product was stirred with 5 ml of diisopropyl ether. The solid that remained was separated off and dried. This gave 0.45 g of the desired product as a white powder; m.p. 164-165° C.

reactant | 3-difluoromethyl-1-methyl-1H-pyrazole-4-carbonyl chloride | 0.29 g | FC(C1=NN(C=C1C(=O)Cl)C)F | C6H5ClF2N2O
reactant | 4′-trifluoromethyl-2-aminobiphenyl | 0.36 g | FC(C1=CC=C(C=C1)C1=C(C=CC=C1)N)(F)F | C13H10F3N
reactant | pyridine | 0.18 g | N1=CC=CC=C1 | C5H5N
reactant | methyl tert-butyl ether | 30 ml | C(C)(C)(C)OC | C5H12O
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | N-(4′-Trifluoromethylbiphenyl-2-yl)-3-difluoromethyl-1-methyl-1H-pyrazole-4-carboxamide | FC(C1=CC=C(C=C1)C1=C(C=CC=C1)NC(=O)C=1C(=NN(C1)C)C(F)F)(F)F | C19H14F5N3O
